US07399759B2
3-[2-(7-Bromo-4-oxo-4H-1,3-benzothiazin-2-yl)-4-pyridyl]propionic acid
tert-Butyl 3-[2-(7-bromo-4-oxo-4H-1,3-benzothiazin-2-yl)-4-pyridyl]propanoate (0.49 g, 1.1 mmol) was dissolved in trifluoroacetic acid (5 ml), and the mixture was stirred at 0° C. for 2 hrs. The solvent was evaporated, and the residue was recrystallized from diisopropyl ether-tetrahydrofuran to give the titled compound (0.38 g, 89%) as white crystals.

reactant | tert-Butyl 3-[2-(7-bromo-4-oxo-4H-1,3-benzothiazin-2-yl)-4-pyridyl]propanoate | 1.1 mmol, 0.49 g | BrC1=CC2=C(C(N=C(S2)C2=NC=CC(=C2)CCC(=O)OC(C)(C)C)=O)C=C1 | C20H19BrN2O3S
solvent | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 3-[2-(7-Bromo-4-oxo-4H-1,3-benzothiazin-2-yl)-4-pyridyl]propionic acid | 0.38 g, 89% | BrC1=CC2=C(C(N=C(S2)C2=NC=CC(=C2)CCC(=O)O)=O)C=C1 | C16H11BrN2O3S
